US09403798B2
(R)-[1-(4-Fluorophenyl)pyrrolidin-2-yl]methanamine
To a tetrahydrofuran solution (1.0 mL) of (R)-5-(aminomethyl)-1-(4-fluorophenyl)pyrrolidin-2-one (50.0 mg, 0.240 mmol) synthesized in Reference Synthesis Example 216, borane-tetrahydrofuran complex (8.5% tetrahydrofuran solution) (0.760 mL, 0.720 mmol) was added and the resultant mixture was stirred at room temperature for 1 hour 30 minutes. Thereafter, the borane-tetrahydrofuran complex (1.0 mL) was further added and the resultant mixture was stirred at 70° C. for 1 day. After completion of the reaction, methanol was added to the reaction solution and the resultant mixture was stirred at 70° C. for 3 hours, followed by concentrating the reaction solution under reduced pressure to obtain a crude product of the title compound.

reactant | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
reactant | (R)-5-(aminomethyl)-1-(4-fluorophenyl)pyrrolidin-2-one | 0.240 mmol, 50.0 mg | NC[C@H]1CCC(N1C1=CC=C(C=C1)F)=O | C11H13FN2O
reactant | borane tetrahydrofuran | 0.720 mmol, 0.760 mL | B.O1CCCC1
solvent | methanol | CO | CH4O
product | (R)-[1-(4-Fluorophenyl)pyrrolidin-2-yl]methanamine | FC1=CC=C(C=C1)N1[C@H](CCC1)CN | C11H15FN2
